US07153854B2
To a solution of 5-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid (50 mg) in N,N-dimethylformamide (1 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (35 mg) and 1-hydroxybenzotriazole (28 mg) at ambient temperature. After 30 minutes, to the mixture was added morpholine (24 mg). After 5 hours, the reaction mixture was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was washed with water three times and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel column chromatography (silica gel, 40 mL) eluted with hexane-ethyl acetate=3-1, 2-1, 1-1, 1-3, and 0-1 to give 3-{7-ethyl-2-methyl-3-[5-(4-morpholinyl)-5-oxopentyl]pyrrolo[1,2-b]pyridazin-4-yl}benzonitrile as an yellow gum (53 mg)

reactant | 5-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid | 50 mg | C(#N)C=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCC(=O)O)C)C(=CC2)CC | C22H23N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 35 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | morpholine | 24 mg | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-{7-ethyl-2-methyl-3-[5-(4-morpholinyl)-5-oxopentyl]pyrrolo[1,2-b]pyridazin-4-yl}benzonitrile | 53 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=C(C#N)C=CC2)CCCCC(=O)N2CCOCC2)C | C26H30N4O2
